US06133468
Preparation of 4-chloro-2-fluorobenzyl bromide
361.5 g of 4-chloro-2-fluorotoluene, 520 g of chlorobenzene, 6 g of conc. H2SO4, 467 g of 47% strength hydrobromic acid and 2.7 g of 2,2'-azobis(2-methylpropionitrile) were mixed at 70° C. in a 4 l stirred apparatus. 620.5 g of a 10% strength aqueous hydrogen peroxide solution and a solution of 16.5 g of 2,2'-azobis(2-methylpropionitrile) in 270 g of chlorobenzene were simultaneously added dropwise over the course of 1.5 hours. The mixture was then stirred at 70° C. for 1 hour. GC analysis of the org. phase:

reactant | 4-chloro-2-fluorotoluene | 361.5 g | ClC1=CC(=C(C=C1)C)F | C7H6ClF
reactant | H2SO4 | 6 g | OS(=O)(=O)O | H2O4S
reactant | hydrobromic acid | Br | BrH
reactant | 2,2'-azobis(2-methylpropionitrile) | 2.7 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | hydrogen peroxide | OO | H2O2
reactant | 2,2'-azobis(2-methylpropionitrile) | 16.5 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | chlorobenzene | 270 g | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 520 g | ClC1=CC=CC=C1 | C6H5Cl
product | 4-chloro-2-fluorobenzyl bromide | ClC1=CC(=C(CBr)C=C1)F | C7H5BrClF
